US05925662
1.4. 2-(2-Phenylmethoxy-3,3,3-trifluoropropyl)-6-nitro-3,4-dihydro-2H-1-benzopyran
A solution of 5.0 g (17 mmol) of 2-(2-hydroxy-3,3,3-trifluoropropyl)-6-nitro-3,4-dihydro-2H-1-benzopyran in a mixture of 60 ml of toluene and 20 ml of dichloromethane is stirred for 3 hours with 6.1 ml (52 mmol) of benzyl bromide, 0.55 g (1.7 mmol) of tetrabutylammonium bromide and a solution of 2.7 g (69 mmol) of sodium hydroxide in 5.4 ml of water. The reaction mixture is then diluted with dichloromethane and washed with water, then the organic phase is dried over sodium sulfate and concentrated under reduced pressure. By chromatography of the residue on a silica column using cyclohexane containing 0 to 50% of dichloromethane, 5.9 g of product are obtained.

reactant | 2-(2-hydroxy-3,3,3-trifluoropropyl)-6-nitro-3,4-dihydro-2H-1-benzopyran | 17 mmol, 5.0 g | OC(CC1OC2=C(CC1)C=C(C=C2)[N+](=O)[O-])C(F)(F)F | C12H12F3NO4
reactant | benzyl bromide | 52 mmol, 6.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydroxide | 69 mmol, 2.7 g | [OH-].[Na+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 1.7 mmol, 0.55 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5.4 ml | O | H2O
product | 2-(2-Phenylmethoxy-3,3,3-trifluoropropyl)-6-nitro-3,4-dihydro-2H-1-benzopyran | C1(=CC=CC=C1)COC(CC1OC2=C(CC1)C=C(C=C2)[N+](=O)[O-])C(F)(F)F | C19H18F3NO4
